US07241769B2
Methyl 2-amino-6-fluoro-benzoate
5 g (31.6 mmol) 2-amino-6-fluorobenzoic acid are dissolved in 50 ml of methanol and combined with 7.9 ml (31.6 mmol) of a 4 M solution of HCL in 1,4-dioxane and stirred for 10 min. at ambient temperature. The reaction mixture is combined dropwise with 3.45 ml (47.4 mmol) thionyl chloride and refluxed for 3 h. Then the reaction mixture is neutralised with 150 ml of a saturated, aqueous NaHCO3 solution and extracted four times with 100 ml of ethyl acetate. The organic phase is dried with MgSO4 and the solvent is eliminated in vacuo.

reactant | 2-amino-6-fluorobenzoic acid | 31.6 mmol, 5 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | thionyl chloride | 47.4 mmol, 3.45 ml | S(=O)(Cl)Cl | Cl2OS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | Methyl 2-amino-6-fluoro-benzoate | NC1=C(C(=O)OC)C(=CC=C1)F | C8H8FNO2
